US08309721B2
A mixture of 2.0 g of 4-trifluoromethanesulphonyloxycarbazole obtained according to the preceding stage, 142 mg of palladium acetate, 262 mg of 1,3-diphenylphosphinopropane and 0.88 ml of triethylamine in 35 ml of methanol and 85 ml of dimethylformamide is maintained at 50° C. for 8 hours under 2 bar of carbon monoxide, in an autoclave. After flushing with argon, the reaction medium is evaporated to dryness under vacuum and the orangey residue is chromatographed on silica gel (40-63 μm), elution being carried out with dichloromethane. 1.29 g of 9H-carbazole-4-carboxylic acid methyl ester are obtained in the form of a greenish solid, the characteristics of which are the following:

reactant | 4-trifluoromethanesulphonyloxycarbazole | 2.0 g | FC(S(=O)(=O)OC1=CC=CC=2NC3=CC=CC=C3C12)(F)F | C13H8F3NO3S
reactant | 1,3-diphenylphosphinopropane | 262 mg | C1(=CC=CC=C1)PCCCPC1=CC=CC=C1 | C15H18P2
reactant | triethylamine | 0.88 ml | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | methanol | 35 ml | CO | CH4O
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 142 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 9H-carbazole-4-carboxylic acid methyl ester | 1.29 g | COC(=O)C1=CC=CC=2NC3=CC=CC=C3C12 | C14H11NO2
